US05616579
Following a procedure similar to that described in Example 68, but using 4-[4-(1-pyrrolidinylmethyl)-2-pyridyloxy]-cis-2-butenylamine and 1,4-oxathian-2-one as starting materials, in relative proportions similar to those used in that Example, N-{4-[4-(1-pyrrolidinylmethyl)-2-pyridyloxy]-cis-2-butenyl}-2-(2-hydroxyethylthio)acetamide was obtained. This product was reacted with acetic anhydride in the same manner and same relative proportions as described in Example 67(c), to give the title compound in a 42% yield.

reactant | 4-[4-(1-pyrrolidinylmethyl)-2-pyridyloxy]-cis-2-butenylamine | N1(CCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C14H21N3O
reactant | 1,4-oxathian-2-one | O1C(CSCC1)=O | C4H6O2S
product | N-{4-[4-(1-pyrrolidinylmethyl)-2-pyridyloxy]-cis-2-butenyl}-2-(2-hydroxyethylthio)acetamide | N1(CCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CSCCO)=O | C18H27N3O3S
